US05266556
To a solution of 5-nitroindazole (1.63 g) in N,N-dimethylformamide (10 ml), 60% sodium hydride (0.5 g) was added, and the resultant mixture was stirred while cooling with ice. After 10 minutes, 2,3-dichloro-5-trifluoromethylpyridine (2.1 g) was added thereto, and the resultant mixture was stirred at room temperature for 30 minutes. After completion of the reaction, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with hexane-ethyl acetate (4:1) to give 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-5-nitroindazole (1.8 g)

reactant | 5-nitroindazole | 1.63 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 2.1 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-5-nitroindazole | 1.8 g | ClC=1C(=NC=C(C1)C(F)(F)F)N1N=CC2=CC(=CC=C12)[N+](=O)[O-] | C13H6ClF3N4O2
